US07312359B2
A solution of (6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid methyl ester (5.22 g, 14.56 mmol) in anhydrous Et2O (50 mL) was cooled to 0° C. under argon, and 21.84 mL of lithium aluminum hydride (21.84 mmol) in THF was added dropwise via syringe. An additional 50 mL of dry THF was added, and the reaction mixture was stirred for 1 hour. The reaction mixture was carefully quenched by addition of 500 mL water, and the resulting aqueous mixture was extracted twice with 250 mL of EtOAc. Evaporation of the organic layer yielded a crude oil which was purified by elution through silica gel with 1:1 hexanes:EtOAc. The solvent was evaporated to give a solid that was dissolved in 50 mL dry methylene chloride. The solution was cooled to 0° C., and pyridine (4.0 mL, 49.5 mmol) and methanesulfonyl chloride (1.69 mL, 21.84 mmol) were added. The reaction mixture was stirred for 3 hours, during which time the reaction mixture was allowed to warm to room temperature. The reaction mixture was poured into 500 mL of saturated aqueous NaHCO3, and the mixture was extracted three times with 250 mL of EtOAc. The combined organic layers were washed with water, brine, and dried on MgSO4. The solvent was removed under reduced pressure to give an oil that was dissolved in benzene and azeotroped to remove residual pyridine. Solvent was removed, and the resulting oil was dissolved in methylene chloride and eluted through silica gel with 1:1 hexanes:EtOAc. Solvent was again removed, to afford methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester as a white solid (4.44 g, 11.25 mmol, 77.3%) MS: 396 (M+H)+.

reactant | (6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid methyl ester | 14.56 mmol, 5.22 g | COC(CC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC=CC=C1)=O | C19H20O4S
reactant | lithium aluminum hydride | 21.84 mmol, 21.84 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | pyridine | 49.5 mmol, 4.0 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 21.84 mmol, 1.69 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | Et2O | 50 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester | 11.25 mmol, 4.44 g, 77.3% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCOS(=O)(=O)C | C19H22O5S2
